US05021418
Preparation of 5,6-Dihydro-5-hydroxy-6-phenyl-7H-pyrrolo-[3,4-b]pyridin-7-one
To a solution of N-phenyl-2-pyridinecarboxamide (1.00 g) in dry tetrahydrofuran (20 mL) under N2 atmosphere at -78° C., was added n-butyllithium in hexane (4.0 mL, 2.5M). This mixture was allowed to stir for one hour. Methyl formate (0.62 mL) in dry tetrahydrofuran (5 mL) was added rapidly dropwise. After addition, the cold bath was removed and the mixture warmed to room temperature over two hours. The reaction was quenched with water and the tetrahydrofuran was evaporated in vacuo. The residue was extracted with ethyl acetate and dried (K2CO3). Purification was effected by flash chromatography on silica gel using ethyl acetate/hexane (6/4) as eluant (Rf =0.1). The yield was 310 mg (27.4%).

reactant | N-phenyl-2-pyridinecarboxamide | 1.00 g | C1(=CC=CC=C1)NC(=O)C1=NC=CC=C1 | C12H10N2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | Methyl formate | 0.62 mL | C(=O)OC | C2H4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | hexane | 2.5M, 4.0 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-5-hydroxy-6-phenyl-7H-pyrrolo-[3,4-b]pyridin-7-one | OC1N(C(C2=NC=CC=C21)=O)C2=CC=CC=C2 | C13H10N2O2
